US09303007B2
A solution of (1R,3S,5R)-tert-butyl 3-(5-(4-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)phenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (568 mg), (1R,3S,5R)-tert-butyl 3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (369 mg, 0.983 mmol), Na2CO3 (313 mg, 2.95 mmol) in DME (10 mL) and water (2 mL) was degassed under vacuum for 10 min. The mixture was heated at 80° C. and then Pd(Ph3P)4 (114 mg, 0.098 mmol) was added under a stream of nitrogen. The reactor was sealed and the heating was pursued further at 130° C. overnight. The DME was removed in vacuo and the crude material was partitioned between EtOAc/H2O. The layers were separated and the aqueous layer was extracted several times with EtOAc. The combined organic extracts were dried over Na2SO4 and evaporated in vacuo. The residue was purified by flash column chromatography (BIOTAGE®), eluting with a gradient of 20 to 100% EtOAc/hexanes, then 5% MeOH/DCM to afford the partially pure (1R,3S,5R)-tert-butyl 3-(5-(4-(6-(2-((1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-imidazol-4-yl)naphthalen-2-yl)phenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (277 mg). LC-MS retention time 1.578 min; m/z 699.56 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire 5u C18 4.6×30 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where Solvent A was 10% MeOH/90% H2O/0.1% TFA and Solvent B was 10% H2O/90% MeOH/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (500 MHz, MeOD) δ ppm 7.62-7.69 (m, 6H), 7.53-7.59 (m, 4H), 6.95 (s, 2H), 4.67 (br s, 2H), 3.46-3.56 (m, 2H), 2.50-2.59 (m, 0.5H), 2.32-2.49 (m, 2H), 2.27 (br s, 1.5H), 1.65-1.78 (m, 2H), 1.28 (br. s, 18H), 0.80-0.88 (m, 2H), 0.53-0.66 (m, 2H).

reactant | (1R,3S,5R)-tert-butyl 3-(5-(4-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)phenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 568 mg | CC1(OB(OC1(C)C)C=1C=C2C=CC(=CC2=CC1)C1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N([C@@H]2C[C@@H]2C1)C(=O)OC(C)(C)C)C | C35H40BN3O4
reactant | (1R,3S,5R)-tert-butyl 3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 0.983 mmol, 369 mg | IC1=CN=C(N1)[C@H]1N([C@@H]2C[C@@H]2C1)C(=O)OC(C)(C)C | C13H18IN3O2
reactant | Na2CO3 | 2.95 mmol, 313 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
catalyst | Pd(Ph3P)4 | 0.098 mmol, 114 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1R,3S,5R)-tert-butyl 3-(5-(4-(6-(2-((1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-imidazol-4-yl)naphthalen-2-yl)phenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 277 mg | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C=1NC=C(N1)C=1C=C2C=CC(=CC2=CC1)C1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N([C@@H]2C[C@@H]2C1)C(=O)OC(C)(C)C | C42H46N6O4
